US05705516
Hydrazine hydrate (4.7 cm3) was added dropwise to ethyl (4-methoxyphenyl)acetate (3.73 g) and then methanol (20 cm3) was added to form a homogeneous reaction mixture. This mixture was stirred for 18 hours at ambient temperature during which time a white precipitate formed. The precipitate was isolated by filtration and washed with methanol and water, then air-dried to give (4-methoxyphenyl)acetic acid hydrazide (2 g). M+ =180; 1H NMR: δ 3.50(2H,s); 3.80(3H,s); 3.85(2H,br s); 6.70(1H,br s); 6.90(2H,d); 7.20(2H,d); (solid).

reactant | Hydrazine hydrate | 4.7 cm3 | O.NN
reactant | ethyl (4-methoxyphenyl)acetate | 3.73 g | COC1=CC=C(C=C1)CC(=O)OCC | C11H14O3
solvent | methanol | 20 cm3 | CO | CH4O
product | (4-methoxyphenyl)acetic acid hydrazide | 2 g | COC1=CC=C(C=C1)CC(=O)NN | C9H12N2O2
